US06809092B2
7-benzyloxy-1,3,4,5-tetrahydro-2H-2-benzazepin-1-one
Under atmosphere of argon, to a solution of the compound prepared in reference example 5 (4.79 g) in dimethylformamide (60 ml) were added potassium carbonate (11.2 g) and benzyl bromide (3.57 ml) at 0° C. and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added water and was extracted with ethyl acetate. The organic layer was washed with water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride successively, and was dried over anhydrous magnesium sulfate and was concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane=3:1) to give the title compound (3.8 g) having the following physical data.

reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 3.57 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-benzyloxy-1,3,4,5-tetrahydro-2H-2-benzazepin-1-one | 3.8 g | C(C1=CC=CC=C1)OC=1C=CC2=C(CCCNC2=O)C1 | C17H17NO2
